US08207344B2
1: 1-Oxa-spiro[2.4]heptane-2-carbonitrile
A 1 M solution of potassium tert-butoxide in tert-butyl alcohol (184.4 mL, 184.4 mmol) is added slowly to a solution of chloroacetonitrile (10.8 mL, 167.6 mmol) and cyclopentanone (15.0 mL, 167.6 mmol) in anhydrous t-butyl alcohol (33 mL). The reaction is stirred at room temperature for 16 h. The mixture is filtered through diatomaceous earth, the solvent is removed, and the residue is diluted with water. The mixture is neutralized with 30% aq.sodium dihydrogen phosphate solution and extracted with diethyl ether. The organic layers are combined, dried over anhydrous sodium sulfate, filtered, and the solvent is removed. The residue is purified by flash chromatography over silica gel to obtain 14.1 g of the title compound as a colourless oil. 1H NMR (CDCl3) δ (ppm): 3.46 (s, 1H), 1.65-2.20 (m, 8H).

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | chloroacetonitrile | 167.6 mmol, 10.8 mL | ClCC#N | C2H2ClN
reactant | cyclopentanone | 167.6 mmol, 15.0 mL | C1(CCCC1)=O | C5H8O
solvent | t-butyl alcohol | 33 mL | C(C)(C)(C)O | C4H10O
solvent | tert-butyl alcohol | 184.4 mmol, 184.4 mL | C(C)(C)(C)O | C4H10O
product | 1-Oxa-spiro[2.4]heptane-2-carbonitrile | 14.1 g | O1C(C12CCCC2)C#N | C7H9NO
